US04950666
A solution of 0.5 gram (0.002 mole) of 12,12-difluoro-11-dodecenoic acid hydrazide and 0.3 gram (0.003 mole) of triethylamine in 20 ml of diethyl ether was stirred, and 0.2 gram (0.003 mole) of acetyl chloride was added. The reaction mixture was stirred at ambient temperature for 30 minutes and was filtered. The filtrate was in turn washed with aqueous 10% hydrochloric acid, aqueous 10% sodium hydroxide, and an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure yielding 0.4 gram of 12,12-difluoro-11-dodecenoic acid 2-acetylhydrazide. The nmr spectrum was consistent with the proposed structure.

reactant | 12,12-difluoro-11-dodecenoic acid hydrazide | 0.002 mole, 0.5 gram | FC(=CCCCCCCCCCC(=O)NN)F | C12H22F2N2O
reactant | triethylamine | 0.003 mole, 0.3 gram | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.003 mole, 0.2 gram | C(C)(=O)Cl | C2H3ClO
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 12,12-difluoro-11-dodecenoic acid 2-acetylhydrazide | 0.4 gram | C(C)(=O)NNC(CCCCCCCCCC=C(F)F)=O | C14H24F2N2O2
